US04871771
(a) 2-(7-(4-methoxyphenylthio)heptyl)benzoic acid
The compound of Example 14(a), 2-(7-bromoheptyl)benzoic acid (1 g., 3.34 mm) was reacted with 4-methoxybenzenethiol (0.618 ml, 5.03 mm), and triethylamine (1.87 ml, 13.42 mm) in DMF (40 ml) as in Example 14(b) to afford the desired product.

reactant | 2-(7-bromoheptyl)benzoic acid | 1 g | BrCCCCCCCC1=C(C(=O)O)C=CC=C1 | C14H19BrO2
reactant | 4-methoxybenzenethiol | 0.618 ml | COC1=CC=C(C=C1)S | C7H8OS
reactant | triethylamine | 1.87 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 2-(7-(4-methoxyphenylthio)heptyl)benzoic acid | COC1=CC=C(C=C1)SCCCCCCCC1=C(C(=O)O)C=CC=C1 | C21H26O3S
